US05194440
1. 2-Tert-butyl-5-(4-nitrobenzyl)-1,2,5-thiadiazolidine-1,1-dioxide
The title compound was prepared in 70% yield from 2-tert-butyl-1,2,5-thiadiazolidine-1,1-dioxide [M. Preiss, Chem. Ber., 1978, 111, 1915] and 4-nitrobenzyl bromide following the procedure described for Example 1 (Method B, Step 1); mp 113° C. (ethyl acetate-hexane, 60:40); δH (360 MHz, CDCl3) 8.21 (2H, d, J=8.7 Hz, Ar--H), 7.58 (2H, d, J=8.7 Hz, Ar--H), 4.24 (2H, s, Ar--CH2 --), 3.40 (2H, t, J=6.2 Hz, --CH2 --), 3.17 (2H, t, J=6.2 Hz, --CH2 --), 1.44 (9H, t-Bu); m/z (EI) 313 (M+).

reactant | 2-tert-butyl-1,2,5-thiadiazolidine-1,1-dioxide | C(C)(C)(C)N1S(NCC1)(=O)=O | C6H14N2O2S
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
solvent | ethyl acetate hexane | C(C)(=O)OCC.CCCCCC
product | 2-Tert-butyl-5-(4-nitrobenzyl)-1,2,5-thiadiazolidine-1,1-dioxide | 70% yield | C(C)(C)(C)N1S(N(CC1)CC1=CC=C(C=C1)[N+](=O)[O-])(=O)=O | C13H19N3O4S
